US07326791B2
rac.-N-[(5-chloro-1H-benzimidazol-2-yl)phenylmethyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid, TBTU, diisopropylethylamine, and rac.—C-(5-chloro-1H-benzimidazol-2-yl)-C-phenylmethylamine in tetrahydrofuran. Yield: quantitative; Rf value: 0.39 (silica gel; dichloromethane/methanol=9:1); C27H25ClN4O2 (472.97); mass spectrum: (M+H)+=473/475 (chlorine isotope).

reactant | 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid | CC=1C=C(C(=O)O)C=CC1C(=O)N1CCCC1 | C13H15NO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | rac.—C-(5-chloro-1H-benzimidazol-2-yl)-C-phenylmethylamine | ClC1=CC2=C(NC(=N2)C(C2=CC=CC=C2)N)C=C1 | C14H12ClN3
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane methanol | ClCCl.CO
product | rac.-N-[(5-chloro-1H-benzimidazol-2-yl)phenylmethyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: quantitative | ClC1=CC2=C(NC(=N2)C(NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)C2=CC=CC=C2)C=C1 | C27H25ClN4O2
